  ADDER - 4 BIT BINARY ADDER USING E-SOURCE AND GATES
  * behavioral gate description

*** SUBCIRCUIT DEFINITION

.SUBCKT 74HC00  in1 in2 out  NVCC NVGND  vcc1={vcc} tripdt1={tripdt}
.param Rout={60*4.0/(vcc1-0.5)} ; standard output driver
E1 out20 0 nand(2) in1 0 in2 0 ({vcc / 3}, 0) ({2 * vcc / 3}, {vcc})
Rout out20 out {Rout}
.ends

.param vcc=3 tripdt=6n

.include ../adder_common.inc

.END
